US08183246B2
6-{[5-(4-Methoxyphenyl)-6-(2-methylphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester
Add 0.5 ml of 2 M aqueous potassium carbonate solution to a mixture of 224 mg (0.50 mmol) 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester and 29 mg (0.03 mmol) tetrakis(triphenylphosphine)palladium(0) in 2.5 ml 1,2-dimethoxyethane. Next, add 85 mg (0.63 mmol) (2-methylphenyl)boronic acid and stir the mixture for 15 h under reflux. Filter the reaction mixture and purify directly by preparative RP-HPLC (gradient: water/acetonitrile). 68 mg (30% of theor.) of the desired product is obtained.

reactant | potassium carbonate | 2 M, 0.5 ml | C([O-])([O-])=O.[K+].[K+]
reactant | 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 0.50 mmol, 224 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)Br)=O | C20H22BrN3O4
reactant | (2-methylphenyl)boronic acid | 0.63 mmol, 85 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
solvent | 1,2-dimethoxyethane | 2.5 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-{[5-(4-Methoxyphenyl)-6-(2-methylphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)C)=O | C27H29N3O4
